US08686002B2
3-(2,6-Dimethoxybenzyl)-7-methyl-3,4-dihydroquinazolin-2-aminium acetate
Synthesis was performed according to EXAMPLE 82 from 7-bromo-3-(2,6-dimethoxybenzyl)-3,4-dihydroquinazolin-2-amine and trimethylboroxine in a CEM microwave at 100° C. (120 watt) for a total of 360 minutes (3×120 minutes).

reactant | 7-bromo-3-(2,6-dimethoxybenzyl)-3,4-dihydroquinazolin-2-amine | BrC1=CC=C2CN(C(=NC2=C1)N)CC1=C(C=CC=C1OC)OC | C17H18BrN3O2
reactant | trimethylboroxine | CB1OB(OB(O1)C)C | C3H9B3O3
product | 3-(2,6-Dimethoxybenzyl)-7-methyl-3,4-dihydroquinazolin-2-aminium acetate | C(C)(=O)[O-].COC1=C(CN2C(=NC3=CC(=CC=C3C2)C)[NH3+])C(=CC=C1)OC | InChI=1S/C18H21N3O2.C2H4O2/c1-12-7-8-13-10-21(18(19)20-15(13)9-12)11-14-16(22-2)5-4-6-17(14)23-3;1-2(3)4/h4-9H,10-11H2,1-3H3,(H2,19,20);1H3,(H,3,4)
